US05561101
4,7-dichloro-3-(4,6-dimethoxy-2-pyrimidinyl)-3-hydroxyphthalide (Table A, cpd. no. 250)
70 g of 3-cyano-4,7-dichloro-3-(4,6-dimethoxy-2-pyrimidinyl)phthalide are slurried in 100 ml of methanol and 16 g of NaOH pellets with 125 ml of water added. The mixture is stirred and heated to reflux for 30 mins., the solution cooled and the methanol stripped. The aqueous solution was diluted with 400 ml of water, washed with 100 ml of ether and then added dropwise to 400 ml of 1 NH2SO4 to give a solid which is filtered and dried in vacuum for 1 hr at 60°. The solid is triturated with 100 ml of ether and the suspension left overnight at RT and the solid isolated by filtration to give the title product m.p. 161°-175° C.

reactant | 3-cyano-4,7-dichloro-3-(4,6-dimethoxy-2-pyrimidinyl)phthalide | 70 g | C(#N)C1(OC(=O)C2=C(C=CC(=C12)Cl)Cl)C1=NC(=CC(=N1)OC)OC | C15H9Cl2N3O4
reactant | NaOH | 16 g | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 400 ml | O | H2O
solvent | water | 125 ml | O | H2O
product | 4,7-dichloro-3-(4,6-dimethoxy-2-pyrimidinyl)-3-hydroxyphthalide | ClC1=C2C(OC(=O)C2=C(C=C1)Cl)(O)C1=NC(=CC(=N1)OC)OC | C14H10Cl2N2O5
